US07482484B2
Step d: 5-Bromo-6-methoxyindan-1-one
48 g (0.18 mol) of 3-(3-bromo-4-methoxyphenyl)propanoyl chloride are dissolved in 500 ml of dichloromethane. 72 g (0.54 mol) of aluminium chloride are added in small amounts. The reaction medium is stirred for 2 hours and then poured into water and the phases are separated by settling. The organic phase is dried (Na2SO4) and the solvent is evaporated off: (39.8 g). The product is triturated in ethanol, filtered off and dried (25 g; 63%)

reactant | 3-(3-bromo-4-methoxyphenyl)propanoyl chloride | 0.18 mol, 48 g | BrC=1C=C(C=CC1OC)CCC(=O)Cl | C10H10BrClO2
reactant | aluminium chloride | 0.54 mol, 72 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 5-Bromo-6-methoxyindan-1-one | BrC=1C=C2CCC(C2=CC1OC)=O | C10H9BrO2
